US07273879B2
Into 1.5 g of acetic anhydride were added 620 mg of 2,6-lutidine and 500 mg of 5-benzyloxy-3-methylsulfinyl-1,2,4-thiadiazole under ice-cooling. After stirring for 15 hours at room temperature, the reaction mixture was added to saturated sodium hydrogen carbonate aqueous solution, and extracted with t-butyl methyl ether. The organic layer was concentrated, and the residue obtained was subjected to silica gel column chromatography to give 376 mg of 5-bezyloxy-3-acetoxymethythio-1,2,4-thiadiazole (hereinafter, referred to as the present compound (44)).

reactant | acetic anhydride | 1.5 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2,6-lutidine | 620 mg | N1=C(C=CC=C1C)C | C7H9N
reactant | 5-benzyloxy-3-methylsulfinyl-1,2,4-thiadiazole | 500 mg | C(C1=CC=CC=C1)OC1=NC(=NS1)S(=O)C | C10H10N2O2S2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | 5-bezyloxy-3-acetoxymethythio-1,2,4-thiadiazole | 376 mg | C(C1=CC=CC=C1)OC1=NC(=NS1)SCOC(C)=O | C12H12N2O3S2
